US08039639B2
Step C: Preparation of 5-Fluoro-2-(4-methyl-3-nitrophenoxy) benzonitrile 64:
In a 3-necked 5 L flask, equipped with a mechanic stirrer, a condenser, and a J-Kem temperature probe, a solution of 5-fluoro-2-nitrotoluene (158 g, 1.02 mol) in N,N-dimethylacetamide (500 mL) was added to a mixture of 5-fluoro-2-hydroxybenzonitrile (147 g, 1.07 mol) and potassium carbonate (163 g, 1.2 mol) in N,N-dimethylacetamide (573 mL) at room temperature. The mixture was heated to 100° C. After 8 hours, the reaction mixture was cooled to room temperature and water (3400 mL) was added in an ice bath. The precipitate was filtered, washed with water (1073 mL×2), and dried in vacuum (40° C.) to give (264 g, 90%) of the desired compound as a brown solid. MS (APCI-) m/z 272 (M−1) was detected. 1H NMR (400 MHz, CDCl3) δ 8.10 (d, 1H, J=9 Hz), 7.41-7.48 (m, 1H), 7.38 (m, 1H), 7.07-7.14 (m, 1H), 6.88-7.10 (m, 1H), 2.63 (s, 3H).

reactant | 5-fluoro-2-nitrotoluene | 1.02 mol, 158 g | FC=1C=CC(=C(C1)C)[N+](=O)[O-] | C7H6FNO2
reactant | 5-fluoro-2-hydroxybenzonitrile | 1.07 mol, 147 g | FC=1C=CC(=C(C#N)C1)O | C7H4FNO
reactant | potassium carbonate | 1.2 mol, 163 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 3400 mL | O | H2O
solvent | N,N-dimethylacetamide | 500 mL | CN(C(C)=O)C | C4H9NO
solvent | N,N-dimethylacetamide | 573 mL | CN(C(C)=O)C | C4H9NO
product | 5-Fluoro-2-(4-methyl-3-nitrophenoxy) benzonitrile | 264 g, 90% | FC=1C=CC(=C(C#N)C1)OC1=CC(=C(C=C1)C)[N+](=O)[O-] | C14H9FN2O3
